US06077959
To a 50 mL roundbottom flask equipped with a mechanical stirrer and a thermometer were added 8.12 grams (0.02 mole--1.0 equiv.) of 1-(4-chloro-2-fluoro-5-iodophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazole, 2.88 grams (0.02 mole--1.0 equiv.) of ethyl 3-hydroxy-2-methylenebutanoate, 7.4 grams (0.04 mole--2.0 equiv.) of tributylamine, and 0.077 gram (0.0002 mole--0.01 equiv.) of bis(benzonitrile)dichloropalladium(II). The reaction mixture was heated to 130° C., where it stirred for two hours. After this time TLC analysis of the reaction mixture indicated 100% conversion of the triazole starting material. To the reaction mixture was then added 50 mL of diethyl ether. The resulting mixture was washed with 6M sulfuric acid, water, and an aqueous saturated sodium chloride solution and then concentrated, yielding 8.7 grams of 75.5% pure ethyl α-acetyl-2-chloro-5-[4-(difluoromethyl)-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl]-4-fluorobenzenepropanoate (84.9% yield). The 75.5% pure product was distilled at 200° C. and 0.01 mm of mercury, yielding 6.0 grams of 95.5% pure ethyl α-acetyl-2-chloro-5-[4-(difluoromethyl)-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl]-4-fluorobenzenepropanoate.

reactant | 1-(4-chloro-2-fluoro-5-iodophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazole | 8.12 grams | ClC1=CC(=C(C=C1I)N1N=C(N(C1=O)C(F)F)C)F | C10H6ClF3IN3O
reactant | ethyl 3-hydroxy-2-methylenebutanoate | 2.88 grams | OC(C(C(=O)OCC)=C)C | C7H12O3
reactant | tributylamine | 7.4 grams | C(CCC)N(CCCC)CCCC | C12H27N
reactant | triazole | N1N=NC=C1 | C2H3N3
catalyst | bis(benzonitrile)dichloropalladium(II) | 0.077 gram | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | ethyl α-acetyl-2-chloro-5-[4-(difluoromethyl)-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl]-4-fluorobenzenepropanoate | 8.7 grams, 84.9% yield | C(C)(=O)C(C(=O)OCC)CC1=C(C=C(C(=C1)N1N=C(N(C1=O)C(F)F)C)F)Cl | C17H17ClF3N3O4
